US06375926B1
Step G 4-(Benzyloxycarbonyl)benzylisocyanate (Compound 35)
To 4-(aminomethyl)benzoic acid, benzyl ester, hydrochloride salt, prepared as in Example 5, step C (288 mg, 1.04 mmol) at 0° C. was added saturated aqueous NaHCO3 (15 ml) and dichloromethane (20 ml). After 20 minutes stirring was ceased and the two layers were allowed to separate. Phosgene (20% solution in toluene, 1.1 ml, 2.18 mmol) was added rapidly to the lower layer and stirring resumed immediately. After 1 hour the organic layer was isolated. The aqueous layer was extracted with dichloromethane (3×20 ml). The four organic layers were combined, dried (Na2SO4) and concentrated in vacuo to give the title compound (261 mg, 94%) as an oil.

reactant | 4-(aminomethyl)benzoic acid, benzyl ester, hydrochloride salt | Cl.NCC1=CC=C(C(=O)OCC2=CC=CC=C2)C=C1
reactant | NaHCO3 | 15 ml | C(=O)(O)[O-].[Na+]
reactant | Phosgene | 2.18 mmol, 1.1 ml | C(=O)(Cl)Cl | CCl2O
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | 4-(Benzyloxycarbonyl)benzylisocyanate | 261 mg, 94% | C(C1=CC=CC=C1)OC(=O)C1=CC=C(CN=C=O)C=C1 | C16H13NO3
